US07632851B2
(4Benzo[1,2,5]oxadiazol-5-yl-2-nitro-phenyl)-methyl-amine
140 mg (0.62 mmol) (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-amine are stirred at 0° C. in 2 mL concentrated sulfuric acid, then treated with 66 mg (1.05 eq.) potassium nitrate and stirred an additional 4 hours. The reaction mixture is poured onto ice, the precipitate filtered off, thoroughly washed with water and dried under high vacuum. The crude product is column chromatographed with ethyl acetate/petroleum ether 1:2 to yield after evaporation of the product-containing fraction the desired product as an orange solid. MS(ES−): 269 (M−1).

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-amine | 0.62 mmol, 140 mg | N1=C2C(=NO1)C=C(C=C2)C2=CC=C(C=C2)NC | C13H11N3O
reactant | potassium nitrate | 66 mg, 1.05 eq. | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | (4Benzo[1,2,5]oxadiazol-5-yl-2-nitro-phenyl)-methyl-amine | N1=C2C(=NO1)C=C(C=C2)C2=CC(=C(C=C2)NC)[N+](=O)[O-] | C13H10N4O3
